US04452851
To a suspension of pyridine phosphorus pentachloride complex prepared from pyridine (20 g) and phosphorus pentachloride (52.5 g) in methylene chloride (860 ml) was added benzhydryl 7-phenylacetamido-3-methylthio-3-cephem-4-carboxylate (67.0 g) under ice-cooling with stirring. The mixture was stirred at the same temperature for 30 minutes, and poured into methanol (650 ml) at -30° C. The mixed solution was stirred at -5° to -15° C. for 10 minutes and then evaporated under reduced pressure. To the residue were added ethyl acetate (500 ml) and cooled water (500 ml). The mixture was stirred for several minutes. The crystalline materials were collected by filtration and washed with diethyl ether to give benzhydryl 7-amino-3-methylthio-3-cephem-4-carboxylate hydrochloride (36.1 g), mp. 170° to 171° C. (dec.).

reactant | pyridine | 20 g | N1=CC=CC=C1 | C5H5N
reactant | phosphorus pentachloride | 52.5 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | benzhydryl 7-phenylacetamido-3-methylthio-3-cephem-4-carboxylate | 67.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C29H26N2O3S2
reactant | methanol | 650 ml | CO | CH4O
solvent | methylene chloride | 860 ml | C(Cl)Cl | CH2Cl2
product | benzhydryl 7-amino-3-methylthio-3-cephem-4-carboxylate hydrochloride | 36.1 g | Cl.NC1[C@@H]2N(C(=C(CS2)C)C(=S)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | InChI=1S/C21H20N2O2S2.ClH/c1-13-12-27-20-16(22)19(24)23(20)17(13)21(26)25-18(14-8-4-2-5-9-14)15-10-6-3-7-11-15;/h2-11,16,18,20H,12,22H2,1H3;1H/t16?,20-;/m1./s1
